US09233958B2
2-[4-(Cyclopropylcarbonyl)phenoxy]propanenitrile
Carbonyldiimidazole (1.07 g, 6.60 mmol) was added to a tetrahydrofuran (15 mL) solution of the compound obtained in Reference Example 81 (1.03 g, 4.40 mmol) at room temperature, and the mixture was stirred at the same temperature for 40 minutes. A 28% aqueous ammonia solution (7 mL, excess amount) was added to the mixture at room temperature, and the resulting mixture was stirred at the same temperature for 20 minutes. Water was added to the reaction mixture, and the resulting mixture was extracted three times with ethyl acetate, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1→ethyl acetate, v/v). Subsequently, trifluoroacetic anhydride (0.612 mL, 4.40 mmol) was added to a methylene chloride (20 mL) solution of the compound thus obtained and pyridine (0.708 mL, 8.79 mmol) at 0° C., and the mixture was stirred at the same temperature for 20 minutes. Water and a saturated aqueous solution of ammonium chloride were added to the reaction mixture at 0° C., and the mixture was extracted three times with methylene chloride. The organic layer thus obtained was washed with water and a 1 M aqueous sodium hydroxide solution sequentially, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→2:1, v/v) to give the title compound (867 mg, yield: 92%).

reactant | Carbonyldiimidazole | 6.60 mmol, 1.07 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 7 mL | N | H3N
reactant | trifluoroacetic anhydride | 4.40 mmol, 0.612 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 8.79 mmol, 0.708 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(Cyclopropylcarbonyl)phenoxy]propanenitrile | 867 mg, yield: 92% | C1(CC1)C(=O)C1=CC=C(OC(C#N)C)C=C1 | C13H13NO2
